US07465731B2
A mixture of N-[(3R)-1-benzyl-3-pyrrolidinyl]-6-chloro-2-pyrazinamine (980 mg), di-tert-butyl dicarbonate (1.48 g) and 4-dimethylaminopyridine (83 mg) in acetonitrile (20 mL) was stirred at 100° C. for 3 days. The reaction mixture was poured into brine and extracted with ethyl acetate. The organic phase was washed with aqueous ammonium chloride, aqueous sodium hydrogen carbonate, and brine, dried over magnesium sulfate, and concentrated in vacuo. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=75/25) to give tert-butyl [(3R)-1-benzyl-3-pyrrolidinyl](6-chloro-2-pyrazinyl)carbamate (925 mg) as a pale yellow oil.

reactant | N-[(3R)-1-benzyl-3-pyrrolidinyl]-6-chloro-2-pyrazinamine | 980 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)NC1=NC(=CN=C1)Cl | C15H17ClN4
reactant | di-tert-butyl dicarbonate | 1.48 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 83 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | tert-butyl [(3R)-1-benzyl-3-pyrrolidinyl](6-chloro-2-pyrazinyl)carbamate | 925 mg | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C(OC(C)(C)C)=O)C1=NC(=CN=C1)Cl | C20H25ClN4O2
